US08232278B2
Synthesis of 4-[(2-phenoxyethyl)-piperazin-1-yl]-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine
To a suspension of 4-chloro-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine (120 mg, 0.398 mmol) in isopropanol (15 ml) was added 1-(2-phenoxyethyl)-piperazine (0.795 mmol, 164 mg). The suspension was stirred at 80° C., after which the suspension became a clear colourless solution. The solvents were evaporated in vacuo. The residue was redissolved in ethyl acetate and extracted with a NaOH solution (1 N). The combined organic layers were evaporated in vacuo and purified by silica gel column chromatography (the mobile phase being a mixture of methanol and dichloromethane in a ratio gradually ranging from 1:99 to 2:98), resulting in the title compound (157 mg, yield 84%) which was characterised by its mass spectrum as follows: MS (m/z): 472 ([M+H]+, 100).

reactant | 4-chloro-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine | 0.398 mmol, 120 mg | ClC=1C2=C(N=CN1)C=CC(=N2)C2=CC(=C(C=C2)OC)OC | C15H12ClN3O2
reactant | 1-(2-phenoxyethyl)-piperazine | 0.795 mmol, 164 mg | O(C1=CC=CC=C1)CCN1CCNCC1 | C12H18N2O
reactant | isopropanol | 15 ml | C(C)(C)O | C3H8O
product | 4-[(2-phenoxyethyl)-piperazin-1-yl]-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine | 157 mg, yield 84% | O(C1=CC=CC=C1)CCC1N(CCNC1)C=1C2=C(N=CN1)C=CC(=N2)C2=CC(=C(C=C2)OC)OC | C27H29N5O3
